US07119205B2
5-ethanimidoyl-4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)thieno[2,3-b]pyridin-6(7H)-one
MeMgBr (1.4 M in ether, 15 mL, 21 mmol) was slowly added to a solution of 4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (1.5 g, 4.18 mmol) in anhydrous THF (90 mL) at 0° C. The reaction mixture was slowly warmed to room temperature over 4 hours and quenched with 1N HCl. It was then filtered, concentrated, and purified on a RP-HPLC system to give the title compound. MS (ESI) m/e 375.0 (M−H)+; 1H NMR (400 MHz, DMSO-d6): δ ppm 12.37 (br s, 1H), 11.33 (s, 1H), 9.51 (s, 1H), 9.32 (s, 1H), 7.49 (d, J=8.59, 2H), 7.42 (d, J=8.59, 2H), 7.29 (dd, J=7.68, 1.85, 1H), 7.18–7.14 (m, 1H), 6.96 (dd, J=8.29, 1.23, 1H), 6.91–6.84 (m, 1H), 6.75 (s, 1H), 2.55 (s, 3H).

reactant | MeMgBr | 21 mmol, 1.4 M, 15 mL | C[Mg+].[Br-]
reactant | 4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 4.18 mmol, 1.5 g | OC=1C2=C(NC(C1C#N)=O)SC=C2C2=CC=C(C=C2)C2=C(C=CC=C2)O | C20H12N2O3S
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 5-ethanimidoyl-4-hydroxy-3-(2′-hydroxy-1,1′-biphenyl-4-yl)thieno[2,3-b]pyridin-6(7H)-one | C(C)(=N)C1=C(C2=C(NC1=O)SC=C2C2=CC=C(C=C2)C2=C(C=CC=C2)O)O | C21H16N2O3S
